US08211919B2
To a solution of 4-(4-pyridinyl)aniline (400 mg), O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (1.34 g), 1-hydroxy-7-azabenzotriazole (480 mg) and (2-nitrophenoxy)acetic acid (695 mg) in N,N-dimethylformamide (10 ml) was added N,N-diisopropylethylamine (1.3 ml), which was stirred overnight at ambient temperature. The reaction mixture was poured into water (30 ml) and stirred for 30 minutes. Insoluble material was collected, washed with water, dried and purified by column chromatography on silica gel (gradient, CHCl3, 10% MeOH in CHCl3). The aliquots of obtained product (100 mg) and 10% palladium on carbon (50% wet, 30 mg) in N,N-dimethylformamide (10 ml) was stirred at ambient temperature for 3 hours under an atmospheric pressure of hydrogen. The catalyst was removed and evaporated under reduced pressure. The resultant was purified by column chromatography on silica gel (gradient, CHCl3, 10% MeOH in CHCl3), which was recrystallized from EtOH to give 2-(2-aminophenoxy)-N-[4-(4-pyridinyl)phenyl]acetamide (30 mg) as an off-white powder.

reactant | 4-(4-pyridinyl)aniline | 400 mg | N1=CC=C(C=C1)C1=CC=C(N)C=C1 | C11H10N2
reactant | O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 1.34 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-hydroxy-7-azabenzotriazole | 480 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | (2-nitrophenoxy)acetic acid | 695 mg | [N+](=O)([O-])C1=C(OCC(=O)O)C=CC=C1 | C8H7NO5
reactant | N,N-diisopropylethylamine | 1.3 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 30 ml | O | H2O
product | 2-(2-aminophenoxy)-N-[4-(4-pyridinyl)phenyl]acetamide | 30 mg | NC1=C(OCC(=O)NC2=CC=C(C=C2)C2=CC=NC=C2)C=CC=C1 | C19H17N3O2
